US05891916
Ethyl 7,7-bis(4-methoxyphenyl)-7-cyanoheptanoate
To a solution of bis(4-methoxyphenyl)acetonitrile (1.0 g, 4 mmol) in N,N-dimethylformamide (5 ml) was added 60% oil sodium hydride (0.24 g, 6 mmol) while stirring under ice-cooling. The mixture was stirred for 30 minutes under the same conditions, to which was added, while stirring under ice-cooling, ethyl 6-bromohexanoate (0.89 g, 4 mmol). The mixture was stirred for 2 hours at room temperature, to which was added a saturated aqueous solution of ammonium chloride. The mixture was subjected to extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous saline solution, which was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatography, eluting with hexane--ethyl acetate (4:1) to give 1.1 g of the title compound.

reactant | bis(4-methoxyphenyl)acetonitrile | 4 mmol, 1.0 g | COC1=CC=C(C=C1)C(C#N)C1=CC=C(C=C1)OC | C16H15NO2
reactant | sodium hydride | 6 mmol, 0.24 g | [H-].[Na+]
reactant | ethyl 6-bromohexanoate | 4 mmol, 0.89 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 7,7-bis(4-methoxyphenyl)-7-cyanoheptanoate | 1.1 g | COC1=CC=C(C=C1)C(CCCCCC(=O)OCC)(C#N)C1=CC=C(C=C1)OC | C24H29NO4
